US07851473B2
(1) 2,2,2-Trichloroethyl [4-(1H-pyrazol-1-yl)phenyl]carbamate
To a solution of 4-(1H-pyrazol-1-yl)aniline (1.00 g, 6.28 mmol) and pyridine (1.52 ml, 18.8 mmol) in N,N-dimethylacetamide (20 ml) was added 2,2,2-trichloroethyl chloroformate (1.30 ml, 9.42 mmol) under ice-cooling, and the mixture was stirred under ice-cooling for 2 hours. The reaction mixture was poured into ice-water, and 2.00 g (95.2%) of the desired product was collected by filtration as a solid.

reactant | 4-(1H-pyrazol-1-yl)aniline | 6.28 mmol, 1.00 g | N1(N=CC=C1)C1=CC=C(N)C=C1 | C9H9N3
reactant | pyridine | 18.8 mmol, 1.52 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 9.42 mmol, 1.30 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 2,2,2-Trichloroethyl [4-(1H-pyrazol-1-yl)phenyl]carbamate | 2.00 g, 95.2% | N1(N=CC=C1)C1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C12H10Cl3N3O2
